US04166813
2,2-Bis[4-{2-acetoxy-3-[N-(1,2,2,6,6-pentamethyl-4-piperidyl)acetamido]propoxy}phenyl]propane (Compound No. 149)
A mixture of 1 g of 2,2-bis[4-{2-hydroxy-3-[(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane, obtained as described in Example 4, and 1 g of acetic anhydride in 10 ml of benzene was reacted in a similar manner to that described in Example 8, giving the desired compound in the form of a white powder. The compound had an Rf value of 0.70 on thin layer chromatography on silica gel developed with a 9:1 by volume mixture of ethyl acetate and triethylamine.

reactant | 2,2-bis[4-{2-hydroxy-3-[(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane | 1 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CNC1CC(N(C(C1)(C)C)C)(C)C)O)CNC1CC(N(C(C1)(C)C)C)(C)C | C41H68N4O4
reactant | acetic anhydride | 1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2,2-Bis[4-{2-acetoxy-3-[N-(1,2,2,6,6-pentamethyl-4-piperidyl)acetamido]propoxy}phenyl]propane | C(C)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(C(C)=O)C1CC(N(C(C1)(C)C)C)(C)C)OC(C)=O)CN(C(C)=O)C1CC(N(C(C1)(C)C)C)(C)C | C49H76N4O8
